US04191694
(1S,5R,6R,7R,3R)-3-(4-Acetylcarbamoyl-1-butyl)-6-[(E)-(3S)-3-hydroxy-1-octen-6-ynyl]-7-hydroxy-2-oxabicyclo[3,3,0]octane
400 mg. of (1S,5R,6R,7R,3R)-3-(4-carboxy-1-butyl)-7-hydroxy-6-[(E)-(3S)-3-hydroxy-1-octen-6-ynyl]-2-oxabicyclo[3,3,0]octane, 100 mg. of 4-dimethylaminopyridine, 0.5 ml. of acetic anhydride, and 1 ml. of pyridine are stirred for 16 hours at 20°, then combined with 0.2 ml. of water, agitated for another 2 hours, diluted with 50 ml. of water, and extracted repeatedly with methylene chloride. The extract is shaken in succession with dilute sulfuric acid and brine, dried over magnesium sulfate, and evaporated under vacuum. The dried residue (1 hour at 40° and 0.01 torr) is dissolved in 15 ml. of acetonitrile and, at 0°, a solution of 150 mg. of acetylisocyanate in 10 ml. of acetonitrile is added dropwise thereto. The mixture is stirred for another 2 hours at 20°, concentrated under vacuum, acidified with dilute sulfuric acid to pH 5, extracted repeatedly with ether, and the extract washed neutral with brine, dried over magnesium sulfate, and evaporated under vacuum.

reactant | (1S,5R,6R,7R,3R)-3-(4-carboxy-1-butyl)-7-hydroxy-6-[(E)-(3S)-3-hydroxy-1-octen-6-ynyl]-2-oxabicyclo[3,3,0]octane | C(=O)(O)CCCC[C@H]1O[C@H]2C[C@H]([C@@H]([C@H]2C1)\C=C\[C@H](CCC#CC)O)O | C20H30O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | (1S,5R,6R,7R,3R)-3-(4-Acetylcarbamoyl-1-butyl)-6-[(E)-(3S)-3-hydroxy-1-octen-6-ynyl]-7-hydroxy-2-oxabicyclo[3,3,0]octane | C(C)(=O)NC(=O)CCCC[C@H]1O[C@H]2C[C@H]([C@@H]([C@H]2C1)\C=C\[C@H](CCC#CC)O)O | C22H33NO5
